US05721248
8- Formyl-2-phenyl-imidazo [1.2-a]-pyridine
A mixture of 14.8 ml of dimethyl sulphoxide and 45 ml of methylene chloride is added dropwise to 8.7 ml (110 mmol) of oxalyl chloride in 220 ml of methylene chloride at -60° C. under inert conditions. 19.5 g (87 mmol) of 2-phenyl-8-hydroxymethyl-imidazo[1,2-a]pyridine in 90 ml of methylene chloride and 45ml of dimethyl sulphoxide are then added dropwise at -60° C., while stirring, and the mixture is stirred at -60° C. for 15 minutes end at -10° C. for 1 hour. 60.9 ml of triethylamine are now added and the mixture is stirred at -10° C. for 5 minutes and then allowed to come to room temperature. For working up, water is added, the organic phase is separated off and the aqueous phase is extracted twice more with methylene chloride. The combined organic phases are washed with saturated NaCl solution, dried over Na2SO4 and concentrated on a rotary evaporator. Stirring of the residue with ether gives 16.4 g of crystals (=73.8% of theory), which are chromatographed over silica gel for removal of chlorinated by-products.

reactant | oxalyl chloride | 110 mmol, 8.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenyl-8-hydroxymethyl-imidazo[1,2-a]pyridine | 87 mmol, 19.5 g | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2CO)C1 | C14H12N2O
reactant | triethylamine | 60.9 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 220 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulphoxide | 45ml | CS(=O)C | C2H6OS
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulphoxide | 14.8 ml | CS(=O)C | C2H6OS
product | 8- Formyl-2-phenyl-imidazo [1.2-a]-pyridine | 16.4 g, 73.8% | C(=O)C=1C=2N(C=CC1)C=C(N2)C2=CC=CC=C2 | C14H10N2O
